US06767922B2
N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-2-methylpentanyl urea
A solution of 3-amino-6-chloro-2-hydroxybenzenesulfonamide (175 mg, 0.78 mmol) and the crude 2-azidocarbonyl pentane in 2 mL of N,N-dimethyl-formamide was stirred at room temperature for 20 hours. Purification upon Gilson HPLC, eluting with acetonitrile/water (10/90, v/v to 90/10, v/v, over 10 min), gave the desired product (5 mg, 2%). LC-MS (m/z) 336.2 (M+).

reactant | 3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.78 mmol, 175 mg | NC=1C(=C(C(=CC1)Cl)S(=O)(=O)N)O | C6H7ClN2O3S
reactant | 2-azidocarbonyl pentane | N(=[N+]=[N-])C(=O)C(C)CCC | C6H11N3O
reactant | N,N-dimethyl-formamide | 2 mL | CN(C=O)C | C3H7NO
product | N-(3-aminosulfonyl-4-chloro-2-hydroxyphenyl)-N′-2-methylpentanyl urea | 5 mg, 2% | NS(=O)(=O)C=1C(=C(C=CC1Cl)NC(=O)NCC(CCC)C)O | C13H20ClN3O4S
